US05557019
A method for preparing 1,1,1,2,2,4,4,5,5,5-decafluoropentane which comprises reacting two moles of tetrafluoroethylene with one mole of difluorodichloromethane in the presence of a Lewis acid catalyst selected from the group consisting of aluminum chloride anhydride, tin tetrachloride anhydride, antimony pentachloride anhydride, zinc chloride anhydride, iron chloride anhydride, boron trifluoride, and chlorofluorides of the formula AlClxFy, ZrClpFq, or TiClpFq wherein x+y=3, 0<x<3, 0<y<3, p+q=4, 0<p<4, and 0<q<4, to form 3,3-dichloro-1,1,1,2,2,4,4,5,5,5-decafluoropentane; and reducing the 3,3-dichloro-1,1,1,2,2, 4,4,5,5,5-decafluoropentane to 1,1,1,2,2,4,4,5,5,5-decafluoropentane.

reactant | 1,1,1,2,2,4,4,5,5,5-decafluoropentane | FC(C(CC(C(F)(F)F)(F)F)(F)F)(F)F | C5H2F10
reactant | tetrafluoroethylene | two moles | FC(=C(F)F)F | C2F4
reactant | difluorodichloromethane | one mole | FC(Cl)(Cl)F | CCl2F2
reactant | boron trifluoride | B(F)(F)F | BF3
product | 3,3-dichloro-1,1,1,2,2,4,4,5,5,5-decafluoropentane | ClC(C(C(F)(F)F)(F)F)(C(C(F)(F)F)(F)F)Cl | C5Cl2F10
